US04343811
2-[7,8,9,10-Tetrahydro-11-(4-pyridyl)-6H-azepino[1,2-a]indole-2-yloxy]-2-methyl-propanoic acid ethylester
In accordance with a procedure analogous to that of Example 10, the above compound was prepared from 7,8,9,10-tetrahydro-11-(4-pyridyl)-6H-azepino[1,2-a]indole-2-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 7,8,9,10-tetrahydro-11-(4-pyridyl)-6H-azepino[1,2-a]indole-2-ol | N1=CC=C(C=C1)C1=C2N(C3=CC=C(C=C13)O)CCCCC2 | C18H18N2O
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[7,8,9,10-Tetrahydro-11-(4-pyridyl)-6H-azepino[1,2-a]indole-2-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C3N(C2=CC1)CCCCC3)C3=CC=NC=C3)=O | C24H28N2O3
